US06878713B2
Methylamine hydrochloride (10 g, 148 mmol) was added to the stirred solution of 1-carbethoxy-3-methyl-4-piperidone (7 g, 37.83 mmol) obtained as described in Preparation 1, in methanol (50 ml) followed by 8.3 g (148 mmol) KOH. Stirring was continued for 3 hr at ambient temperature. The resulting mixture was cooled at 0° C. and sodium cyanoborohydride (3.0 g, 46.0 mmol) was added to it. Cooling was removed after 10 min. and resulting mixture was stirred for 12 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water, acidified with conc. HCl (pH 3˜4) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1 M sodium hydroxide solution (pH˜10) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to give 1-carbethoxy-4-methylamino-3-methylpiperidine. Yield 4.0 g (50%), C10H20N2O2, m/z 201 (M+1), PMR (CDCl3): 0.92 (dd, 3H), 1.26 (t, 3), 1.54 (m, 1H), 2.1 (m, 2H), 2.34 (s, 3H), 2.62 (m, 1H), 2.86 (m, 1H), 3.06 (m, 1H), 3.46 (m, 1H), 3.72 (m, 1H), 4.1 (q, 2H).

reactant | Methylamine hydrochloride | 148 mmol, 10 g | Cl.CN
reactant | 1-carbethoxy-3-methyl-4-piperidone | 37.83 mmol, 7 g | C(=O)(OCC)N1CC(C(CC1)=O)C | C9H15NO3
reactant | KOH | 148 mmol, 8.3 g | [OH-].[K+]
reactant | sodium cyanoborohydride | 46.0 mmol, 3.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-carbethoxy-4-methylamino-3-methylpiperidine | C(=O)(OCC)N1CC(C(CC1)NC)C | C10H20N2O2
